US06610518B2
Preparation of 4-(tert-butyl)-N-[3-(2-methoxyethoxy)-1-methyl-4-(4-methylphenyl)-1H-pyrazol-5-yl)benzenesulfonamide
4-(tert-Butyl)-N-{[4-(tert-butyl)phenyl]sulfonyl}-N-[3-(2-methoxyethoxy)-1-methyl-4-(4-methylphenyl)-1H-pyrazol-5-yl]benzenesulfonamide (Preparation 18)(278 mg) was dissolved in dioxane, 1M sodium hydroxide solution (4 ml) was added and the reaction was stirred at reflux for 0.5 hours. The solvent was removed under reduced pressure. The residue was partitioned between ethyl acetate and 1M hydrochloric acid. The organic phase was separated, dried over magnesium sulphate and the solvent removed under reduced pressure. The product was purified on silica (10 g) eluting with a solvent gradient of pentane:ethyl acetate (1:0 to 6.4) to yield the title compound as a white solid (160 mg).

reactant | 4-(tert-Butyl)-N-{[4-(tert-butyl)phenyl]sulfonyl}-N-[3-(2-methoxyethoxy)-1-methyl-4-(4-methylphenyl)-1H-pyrazol-5-yl]benzenesulfonamide | 278 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(C1=C(C(=NN1C)OCCOC)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C(C)(C)C | C34H43N3O6S2
reactant | sodium hydroxide | 1M, 4 ml | [OH-].[Na+]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-(tert-butyl)-N-[3-(2-methoxyethoxy)-1-methyl-4-(4-methylphenyl)-1H-pyrazol-5-yl)benzenesulfonamide | 160 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=NN1C)OCCOC)C1=CC=C(C=C1)C | C24H31N3O4S
